data/mechanism_extracts/ChemCommun/10.1039_D2CC06246A.json
{"doi": "10.1039_D2CC06246A", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical anti-Markovnikov azidoacetamidation of styrenes with TMSN3 and MeCN to give vicinal azidoacetamides via a β-azido Ritter intermediate", "mechanism_family": ["radical_polar_crossover", "radical_cation", "cation_initiated"], "electrochemical_role": "Anodic oxidation of the styrene to a radical cation, followed by a second anodic oxidation of the β-azido benzylic radical to a benzyl cation", "key_intermediates": [{"name": "styrene radical cation (A)", "smiles": null, "role": "transient"}, {"name": "β-azido benzylic C-centered radical (B)", "smiles": null, "role": "reactive"}, {"name": "β-azido benzyl cation (C)", "smiles": null, "role": "reactive"}, {"name": "β-azido nitrilium / Ritter intermediate (D)", "smiles": null, "role": "reactive"}, {"name": "β-azido benzyl alcohol from water trapping (E)", "smiles": null, "role": "off_pathway"}], "electron_flow": "The anode oxidizes styrene to a radical cation, which is trapped by TMSN3 to give a β-azido benzylic radical; a second anodic oxidation generates a benzyl cation that is intercepted by MeCN to form a Ritter nitrilium, and hydrolysis delivers the vicinal azidoacetamide. Protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "vinylcyclopropane radical clock (substrate 30)", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opened allyl-azide/acetamide product 31 obtained in 17% (4.4:1), consistent with a carbon radical intermediate"}, {"name": "chemical oxidants (NFSI, TBHP, CAN, m-CPBA, DDQ, PhI(OAc)2, AgNO3)", "smiles": null, "purpose": "redox_probe", "observation": "None reproduced the anodic reaction (product n.d. except trace); only the anode gave 56% of 10, supporting a specifically electrochemical oxidation pathway"}, {"name": "cyclic voltammetry of styrene, TMSN3, and product 3", "smiles": null, "purpose": "redox_probe", "observation": "Styrene Ep/2 = 1.92 V is oxidized preferentially over TMSN3 (no oxidation peak); product 3 (Ep/2 = 0.95 V) is more easily oxidized than starting material, explaining overoxidation/lower yields"}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "A competing pathway diverts the benzyl cation (C) to a β-azido alcohol (E) via water trapping instead of MeCN; this is the main off-pathway side product. The CV result (alkene oxidized, not azide) contradicts the authors' earlier HFIP-mediated azidotetrazolation work where TMSN3 was oxidized first, indicating a switch from azide-radical addition to alkene-radical-cation initiation under these conditions."}
